US07452878B2
c. Preparation of benzyl 2-tert-butoxycarbonylamino-3-(3′-formylbiphenyl-4-yl)propionate
23 ml (45.9 mmol) of an aqueous 2M potassium carbonate solution and 1.77 g (1.50 mmol) of tetrakis palladium are introduced into a solution containing 6.64 g (15.3 mmol) of benzyl 3-(4-bromophenyl)-2-tert-butoxycarbonylaminopropionate and 3.45 g (23 mmol) of 3-boronic acid-benzaldehyde (Example 28b) in 75 ml of toluene. The reaction medium is heated at 80° C. for 20 h and, after a return to ambient temperature, extracted with ethyl acetate. The organic phase is washed with a saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue obtained is purified by chromatography on a column of silica and eluted with an 8/2 heptane/ethyl acetate mixture. 5.0 g of coupled product are obtained with a 71% yield.

reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 3-(4-bromophenyl)-2-tert-butoxycarbonylaminopropionate | 15.3 mmol, 6.64 g | BrC1=CC=C(C=C1)CC(C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C21H24BrNO4
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis palladium | 1.50 mmol, 1.77 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
product | benzyl 2-tert-butoxycarbonylamino-3-(3′-formylbiphenyl-4-yl)propionate | 5.0 g, 71% yield | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC(=CC=C1)C=O | C28H29NO5
